US04343745
Into a 1 liter three-necked flask, equipped as described in Example 1, 590 g of 3-oxaheptan-1-ol (i.e., the butyl monoether of ethylene glycol) are introduced. 40 g of sodium hydroxide in pellet form are added and the mixture is heated to 120° C. Sodium 3-oxaheptan-1-olate and water are formed, with the latter being removed by distillation.

reactant | 3-oxaheptan-1-ol | 590 g | C(COCCCC)O | C6H14O2
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
solvent | water | O | H2O
product | Sodium 3-oxaheptan-1-olate | C(COCCCC)[O-].[Na+] | InChI=1S/C6H13O2.Na/c1-2-3-5-8-6-4-7;/h2-6H2,1H3;/q-1;+1
